US07030139B2
2C: 3-amino-N,N-diethyl-4-{[2-(4-morpholinyl)ethyl]amino}benzamide.
A mixture of N,N-diethyl-4-{[2-(4-morpholinyl)ethyl]amino}-3-nitrobenzamide (1.10 g, 3.14 mmol) and 10% Pd/C in MeOH (50 mL) was hydrogenated for 2 hours at 40 psi. After the reaction was complete, the reaction mixture was filtered through diatomaceous earth. Removal of solvent provided the title compound (0.958 g, 95%) which was used without further purification. MS (ESI) (M+H)+=321.

reactant | N,N-diethyl-4-{[2-(4-morpholinyl)ethyl]amino}-3-nitrobenzamide | 3.14 mmol, 1.10 g | C(C)N(C(C1=CC(=C(C=C1)NCCN1CCOCC1)[N+](=O)[O-])=O)CC | C17H26N4O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-amino-N,N-diethyl-4-{[2-(4-morpholinyl)ethyl]amino}benzamide | 0.958 g, 95% | NC=1C=C(C(=O)N(CC)CC)C=CC1NCCN1CCOCC1 | C17H28N4O2
